US06348032B1
In an ice bath, 1-(2,4-dichlorobenzyl)-2-methylbenzimidazole (4.00 g) is added to chlorosulfonic acid (20 ml) and the solution is stirred for 24 hours at room temperature and at 1.5 hours at 80° C. The reaction solution is poured into ice water, precipitated gummy solids are separated through filtration, and thus, a mixture of 5-chlorosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole and 6-chlorosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole is obtained. This material is immediately used for the following reaction.

reactant | 1-(2,4-dichlorobenzyl)-2-methylbenzimidazole | 4.00 g | ClC1=C(CN2C(=NC3=C2C=CC=C3)C)C=CC(=C1)Cl | C15H12Cl2N2
reactant | chlorosulfonic acid | 20 ml | ClS(=O)(=O)O | ClHO3S
product | 6-chlorosulfonyl-1-(2,4-dichlorobenzyl)-2-methylbenzimidazole | ClS(=O)(=O)C=1C=CC2=C(N(C(=N2)C)CC2=C(C=C(C=C2)Cl)Cl)C1 | C15H11Cl3N2O2S
